data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[N+]1=[C-:10]SC(=C1C)CCO.CC1=CC=C(C=C1)[CH:20]=[O:21].CC[NH+](CC)CC.CC(=O)C=C.[Br-]>>CC[N+]1=[C:10](SC(=C1C)CCO)[CH:20](C2=CC=C(C=C2)C)[O-:21].CC[NH+](CC)CC.CC(=O)C=C.[Br-] 10=20;20,21=21
C[CH:20]([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C[CH:20]=[O:10].C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](CC(=O)C1=CC=CC=C1)[C:22](=[OH+:23])C.[OH2:10].OS(=O)(=O)[O-]>>[H:20][OH2+:10].C[C:22](=[CH:21]CC(=O)C1=CC=CC=C1)[OH:23].OS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC(=O)CC[C:20](C)([NH:10]C1=NC(=CC=C1)Br)[OH2+:21].CC(=O)[O-]>>C[C:20](=[NH+:10]C1=NC(=CC=C1)Br)CCC(=O)C.[OH2:21].CC(=O)[O-] 10=20;20,21=21
C1CCC2=[N:10]CCCN2CC1.C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C1CCC(CC1)C=O>>C1CCC2=[N+:10](CCCN2CC1)[CH:20]3CCC[C:22](=[CH:21]3)[O-:23].C1CCC(CC1)C=O 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC=O)C(CO)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C(C=O)[O:21]C(CO)O 10=20;20,21=21
CO[C:20](=[OH+:21])O.[OH2:10]>>CO[C:20]([OH2+:10])(O)[OH:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)O[C:22]1=[C:21](C=CC=C1)Br 10=20;20,21=21,22
[H:20][N+:21](=CC1=C(C=CC=C1)F)C2=CC=CC=C2.[OH-:10].C1=CC=C(C=C1)N>>[H:20][OH:10].C1=CC=C(C=C1)[N:21]=CC2=C(C=CC=C2)F.C1=CC=C(C=C1)N 10=20;20,21=21
C1[CH:20]([O:21]1)CCC[O-:10]>>C1C[CH:20]([O:10]C1)C[O-:21] 10=20;20,21=21
C[CH+:20]C.[CH:10]1=[CH:11]OC(=C1)S(=O)(=O)O>>C[CH:20](C)[CH:10]1C=C(O[CH+:11]1)S(=O)(=O)O 10,11=10,20
[H:20][NH:21]N=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC)O.[OH-:10].O.[K+]>>[H:20][OH:10].CCN1CCC23C4C(=N[NH-:21])CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.O.[K+] 10=20;20,21=21
[Li][O:10][C:20](C)(C1=CC=CC=C1)[NH+:21](C)OC.[OH-]>>[Li][O+:10]=[C:20](C)C1=CC=CC=C1.C[NH:21]OC.[OH-] 10=20;20,21=21
[H:20][Cl:21].CN=N[OH:10]>>[H:20][OH+:10]N=NC.[Cl-:21] 10=20;20,21=21
CC[CH:20](CC)[Br:21].CC[O-:10]>>CC[CH:20](CC)[O:10]CC.[Br-:21] 10=20;20,21=21
[H:20][OH:21].CC1(C(=O)CCC1=O)C[CH:10]=[C:11](CCCC2=CC(=CC=C2)OC)[O-:12]>>[H:20][CH:10](CC1(C(=O)CCC1=O)C)[C:11](=[O:12])CCCC2=CC(=CC=C2)OC.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)COC1=CC=CC=C1.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)OCC(=O)[O-:21].CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)O 10=20;20,21=21
[H:20][S:21]C1=NNC=N1.CC[N:10](CC)CC.CCO.C1=CC(=CC(=C1)C#N)OCCCCl>>[H:20][N+:10](CC)(CC)CC.C1=NC(=NN1)[S-:21].CCO.C1=CC(=CC(=C1)C#N)OCCCCl 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])C(C)Br.CC[O-:10]>>[H:20][O:10]CC.CC([C:22](=[CH2:21])[O-:23])Br 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C1=CSC(=C1C(=[O:10])O)Br.CO>>[H:20][O+:10]=C(C1=C(SC=C1)Br)O.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
B1(OC2=C(O1)C=CC=C2)C3=C([S+:21](C4=C3C=CC=C4)[CH3:20])CCCC.[Cl-:10]>>B1(OC2=C(O1)C=CC=C2)C3=C([S:21]C4=C3C=CC=C4)CCCC.[CH3:20][Cl:10] 10=20;20,21=21
CC1(CC23CCC(C2=[O+:11][Si-:10](C)(C)(C)OS(=O)(=O)C(F)(F)F)CCCC3O1)C>>CC1(CC23CCC(C2=[O:11])CCCC3O1)C.C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F 10,11=11
CO[CH:20]=[OH+:21].C[SH:10]>>CO[CH:20]([OH:21])[SH+:10]C 10=20;20,21=21
C1C[C:20]2(CCC1OCC3=CC=CC=C3)[OH+:21]CC[O:10]2.CC(=O)[O-].C1CCOC1.O>>C1C[C:20](=[O+:10]CC[OH:21])CCC1OCC2=CC=CC=C2.CC(=O)[O-].C1CCOC1.O 10=20;20,21=21
[H:20][O+:21](C1C2C=C(CC3C4C(C4(C)C)CC(C2(C3=O)CC1=C)C)COCC5=CC=C(C=C5)OC)I6(C7=C(C=CC=C7)C(=O)O6)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1CC2C(C2(C)C)C3CC(=CC4C1(C3=O)CC(=C)C4[O:21]I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C)COCC7=CC=C(C=C7)OC 10=20;20,21=21
[H:20][CH:21](C#N)[C:22](=[O:23])CC1=CC=CC=C1.[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)C[C:22](=[CH:21]C#N)[O-:23] 10=20;22,23=23;20,21=21,22
C[Si:20](C)(C)Cl.C#CC[OH:10]>>C[Si-:20](C)(C)([OH+:10]CC#C)Cl 10=20,
[B-:10]([OH+:11]C(C(C)CC=CI)C(C)C(=O)C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)(F)(F)F.CC[O+](CC)[Si](C)(C)C(C)(C)C.[OH-]>>[B:10](F)(F)F.CC1C(O[Si](OC1C(C)C(C(C)C(=O)C(C)C(C(C)CC=CI)[OH:11])O[Si](C)(C)C(C)(C)C)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C.CC[O+](CC)[Si](C)(C)C(C)(C)C.[OH-] 10,11=11
CC(C)[OH+:11][Al-:10](OC(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CC(C)[OH:11].CC(C)O[Al:10](OC(C)C)OC(C)C.CC(C)[O-] 10,11=11
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[C:11](N(CC)CC)[OH:12]>>[H:20][CH:10](CNCC)[C:11](=[OH+:12])N(CC)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC1=C(C(CCC1)(C)C)C(C2=C(C(=C(C=C2)OC)C(C)C)OC)O[I:10]3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)[O:11]C(=O)C.CC(=O)[O-].C1=CC=[NH+]C=C1.C1=CC=NC=C1>>CC1=C(C(CCC1)(C)C)C(C2=C(C(=C(C=C2)OC)C(C)C)OC)O[I+:10]3(C4=C(C=CC=C4)C(=O)O3)OC(=O)C.CC(=O)[O-:11].CC(=O)[O-].C1=CC=[NH+]C=C1.C1=CC=NC=C1 10,11=11
[H:10][C:11]1(CCC(CC1CCCCC)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCCCC)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C(CCC1=CC=CC=C1)C2=CC=CC=C2.[OH2:10].CC(C)C[Al](CC(C)C)O>>[H:20][OH2+:10].C1=CC=C(C=C1)CCC(=[O:21])C2=CC=CC=C2.CC(C)C[Al](CC(C)C)O 10=20;20,21=21
